US07745413B2
N-diphenylmethylsarcosine 18c
In a 250 ml three-necked flask equipped with a magnetic stirrer, a thermometer, a dropping funnel and a condenser, a mixture of sarcosine (4.45 g; 50 mmol) and KOH (8.47 g; 151 mmol) in 70 ml of isopropanol is prepared by heating the mixture to 50° C. The medium remains cloudy after 30 minutes then chlorodiphenylmethane (10.7 ml; 60 mmol) is added over 30 minutes at 50° C. The mixture is heated for 5 hours at this temperature. The mixture is then left to cool down to ambient temperature. After the addition of 100 ml of water, the pH is adjusted to 10 and the chlorodiphenylmethane which has not reacted is recovered after extraction with CHCl3. The pH is adjusted to 5-6 with concentrated HCl and the mixture is extracted once again with chloroform in order to produce 2.23 g of product (Yield=18%) in the form of colourless gum.

reactant | sarcosine | 50 mmol, 4.45 g | N(C)CC(=O)O | C3H7NO2
reactant | KOH | 151 mmol, 8.47 g | [OH-].[K+]
reactant | chlorodiphenylmethane | 60 mmol, 10.7 ml | ClC(C1=CC=CC=C1)C1=CC=CC=C1 | C13H11Cl
reactant | water | 100 ml | O | H2O
solvent | isopropanol | 70 ml | C(C)(C)O | C3H8O
product | N-diphenylmethylsarcosine | 2.23 g, Yield=18% | C1(=CC=CC=C1)C(N(C)CC(=O)O)C1=CC=CC=C1 | C16H17NO2
